US07812341B2
(Synthesis of 1,3-bis[2-(2,2′-bipyridin-6-yl)-1,3,4-oxadiazol-5-yl]benzene (hereinafter referred to as BpyOXDm) (2))
0.63 g of 6-(2H-tetrazol-5-yl)-2,2′-bipyridine was dissolved in 10 ml of dehydrated pyridine, and 0.29 g of isophthaloyl dichloride was gradually added. Temperature was elevated to 115° C., and stirring was conducted for 6 hours under reflux. After cooling to room temperature, the reaction solution was poured into water, and a precipitated white solid was taken out by suction filtration, and washed with water. The solid obtained was vacuum dried at 80° C. for 20 hours, and purified with column chromatography (carrier: silica gel, eluting solution: chloroform/methanol=20/1) to obtain 0.62 g (yield 81%) of BpyOXDm. The product was identified with NMR analysis. The result of NMR analysis (CDCl3) was as follows. 9.071 ppm (1H), 8.639-8.714 ppm (6H), 8.325-8.477 ppm (4H), 8.037 ppm (2H), 7.756-7.854 ppm (3H), 7.330 ppm (2H).

reactant | 6-(2H-tetrazol-5-yl)-2,2′-bipyridine | 0.63 g | N=1NN=NC1C1=CC=CC(=N1)C1=NC=CC=C1 | C11H8N6
reactant | isophthaloyl dichloride | 0.29 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-bis[2-(2,2′-bipyridin-6-yl)-1,3,4-oxadiazol-5-yl]benzene | yield 81% | N1=C(C=CC=C1C=1OC(=NN1)C1=CC(=CC=C1)C1=NN=C(O1)C1=CC=CC(=N1)C1=NC=CC=C1)C1=NC=CC=C1 | C30H18N8O2
